US05719186
A mixture of (Z)-2-(2-bromo-6-fluoro-1-indanylidene)acetamide (0.51 g, 1.90 mmoles), potassium acetate (0.37 g, 3.80 mmoles), and 18-crown-6 (0.06 g, 0.24 mmoles, Aldrich) in acetonitrile (20 mL) and ethanol (10 mL) was sonicated using a Sonicor ultrasonicator for 2 hours, allowing the temperature to rise to 35° C. The mixture was stirred overnight at ambient temperature. Glacial acetic acid (3 mL) was added and the mixture was sonicated for 1.5 hours allowing the temperature to rise to 50° C. The mixture was stirred overnight at ambient temperature and evaporated in vacuo. The residue was dissolved in dichloromethane (100 mL), washed with water (2×50 mL) and evaporated in vacuo. The residue was chromatographed on silica gel eluting with hexane:ethyl acetate (3:1) gradually increasing the polarity to 100% ethyl acetate. The fractions containing the compound with Rf=0.3 in hexane:ethyl acetate (1:1) were combined and evaporated in vacuo to give a solid which was washed with hexane and dried in a vacuum at 50° C. for 18 hours to give 0.22 g (46%) of (Z)-2-(2-acetoxy-6-fluoro-1-indanylidene)acetamide as a white solid, mp 202°-203° C.; 1H-NMR (DMSO-d6): d 7.49 and 7.08 (d, 2H), 7.19-7.38 (m, 3H), 6.57 (s, 1H), 6.42 (d, 1H), 3.39 (dd, 1H, J=6.9 Hz, 17.7 Hz), and 2.82 (d, 1H, J=18.0 Hz), 1.91 (s, 3H); steady-state nOe: irradiation at 6.57 d, observed 22% nOe at 7.35 d.

reactant | (Z)-2-(2-bromo-6-fluoro-1-indanylidene)acetamide | 1.90 mmoles, 0.51 g | BrC1\C(\C2=CC(=CC=C2C1)F)=C/C(=O)N | C11H9BrFNO
reactant | potassium acetate | 3.80 mmoles, 0.37 g | C(C)(=O)[O-].[K+]
reactant | 18-crown-6 | 0.24 mmoles, 0.06 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (Z)-2-(2-acetoxy-6-fluoro-1-indanylidene)acetamide | 0.22 g, 46% | C(C)(=O)OC1\C(\C2=CC(=CC=C2C1)F)=C/C(=O)N | C13H12FNO3
